US08466163B2
4-Bromo-3,5-dimethoxy-pyridine (μ):
To a stirred solution of 3,5-dimethoxypyridine (2.7 g, 19.4 mmol) in dry THF at −78° C. was added n-butyllithium (23.3 mmol, 2 M solution in cyclohexanes). During this addition a precipitate formed and the reaction was allowed to warm to room temperature for 5 minutes. The precipitate separated into an oily phase and the reaction was re-cooled and treated with bromine (1.5 ml, 29.1 mmol) and again allowed to warm to room temperature. After stirring for 10 minutes the solution became homogeneous and was quenched with 10% Na2S2O3 (aq) and extracted with EtOAc. The organic layer was washed with brine, dried over MgSO4 and concentrated onto silica-gel under reduced pressure. The solid residue was purified by flash chromatography (silica-gel, eluted sequentially with hexanes:EtOAc, 2:1, 1:1, 1:2) to give the product as a white solid (2.4 g, 57%). 1H-NMR (300 MHz, CDCl3) δ 7.95 (s, 2H), 3.99 (s, 6H).

reactant | 3,5-dimethoxypyridine | 19.4 mmol, 2.7 g | COC=1C=NC=C(C1)OC | C7H9NO2
reactant | n-butyllithium | 23.3 mmol, 2 M | C(CCC)[Li]
reactant | bromine | 29.1 mmol, 1.5 ml | BrBr | Br2
solvent | THF | C1CCOC1 | C4H8O
product | 4-Bromo-3,5-dimethoxy-pyridine | 2.4 g, 57% | BrC1=C(C=NC=C1OC)OC | C7H8BrNO2
